US07547680B2
3-Benzyloxy-4-(3-hydroxypropyl)benzylamine
3-Benzyloxy-4-formylbenzonitrile (0.93 g) and (carboethoxymethyl)triphenylphosphonium bromide (2.52 g) were suspended in N,N-dimethylformamide (10 mL). To the reaction mixture was added potassium t-butoxide (0.66 g), and the mixture was stirred at room temperature for 18 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The filtrate was concentrated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (10 mL), and the mixture was added dropwise to a suspension of lithium aluminum hydride (0.20 g) in tetrahydrofuran (15 mL) under ice-cooling. The mixture was stirred at 60° C. for 2 hours. After mixture was cooled in an ice bath, and to the reaction mixture were added dropwise ethanol and water successively, and then added diethyl ether. To the reaction mixture was added anhydrous sodium sulfate, and the insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure to give the title compound (0.20 g).

reactant | 3-Benzyloxy-4-formylbenzonitrile | 0.93 g | C(C1=CC=CC=C1)OC=1C=C(C#N)C=CC1C=O | C15H11NO2
reactant | (carboethoxymethyl)triphenylphosphonium bromide | 2.52 g | [Br-].C(=O)(OCC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 0.66 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-4-(3-hydroxypropyl)benzylamine | 0.20 g | C(C1=CC=CC=C1)OC=1C=C(CN)C=CC1CCCO | C17H21NO2
